US03970454
6. Preparation of N,N-dimethyl-1,2,3,4-tetrahydro-7-propyl-8-hydroxyquinolinium bromide
Into a tube, one introduces 7.5 g of N-methyl-1,2,3,4-tetrahydro-7-propyl-8-hydroxyquinoline (i.e. 0.035 mole) and 4 g of methyl bromide (i.e. 0.035 mole). One adds 10 ml of acetonitrile, one seals the tube and one heats in an oil bath, at 70°C, for 90 hours. After cooling, one dries the compound that is formed, washes with anhydrous ether, and recrystallizes in boiling isopropanol (1 g of product, 2 ml of alcohol). One collects whitish crystals, which one washes again with ether, then one dries the resulting quaternary salt in a drier over sulfuric acid. One obtains 8 g of product, i.e. a yield of 735/1000.

reactant | N-methyl-1,2,3,4-tetrahydro-7-propyl-8-hydroxyquinoline | 0.035 mole, 7.5 g | CN1CCCC2=CC=C(C(=C12)O)CCC | C13H19NO
reactant | methyl bromide | 0.035 mole, 4 g | CBr | CH3Br
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | N,N-dimethyl-1,2,3,4-tetrahydro-7-propyl-8-hydroxyquinolinium bromide | 8 g | [Br-].C[N+]1(CCCC2=CC=C(C(=C12)O)CCC)C | InChI=1S/C14H21NO.BrH/c1-4-6-12-9-8-11-7-5-10-15(2,3)13(11)14(12)16;/h8-9H,4-7,10H2,1-3H3;1H
